US07868008B2
[(4,4-Difluorocyclohexyl)methyl]amine
4,4-difluorocyclohexanecarboxamide (1.32 g, 8.10 mmol) was stirred in the solution of lithium borohydrate (1M, 30 ml) under nitrogen overnight. Then, the reaction mixture was refluxed for 4 hours. After cooled to room temperature, it was poured into ice-water slowly. After filtration, the product was extracted with dichloromethane from filtrate. Combined organic layers were water, brine, dried over anhydrous sodium sulphate, filtered and condensed to provide a 934 mg of colorless oil (82%). δ 2.53 (d, 2H), 1.98-2.09 (m, 2H), 1.73-1.82 (m, 6H), 1.17-1.29 (m, 3H).

reactant | 4,4-difluorocyclohexanecarboxamide | 8.10 mmol, 1.32 g | FC1(CCC(CC1)C(=O)N)F | C7H11F2NO
reactant | lithium | [Li] | Li
product | [(4,4-Difluorocyclohexyl)methyl]amine | 934 mg, 82% | FC1(CCC(CC1)CN)F | C7H13F2N
